* C:\users\harry\Documents\CProjects\H533\contents\circuits\LLC_AC.asc
* Generated by LTspice 24.1.9 for Windows.
M1 N008 N009 0 0 BSC100N06LS3
V3 N002 N008 PULSE(0 20 {(T*dead_pct/100)/2} {T/rising_c} {T/rising_c} { T/2 - (T*dead_pct/100)/2 - T/rising_c } {T})
V2 N009 0 PULSE(0 20 {T/2+(T*dead_pct/100)/2} {T/rising_c} {T/rising_c} { T/2 - (T*dead_pct/100)/2 - T/rising_c } {T})
C1 N006 N005 {C_r}
L1 N007 N006 {L_r}
L2 N011 N007 {L_m}
L3 0 N003 {N_Rx*N_Rx*L_m}
L4 N010 0 {N_Rx*N_Rx*L_m}
R2 N004 0 {R_o}
R5 N004 N003 {R_pa}
R6 NC_01 N004 {R_pa}
V4 N001 0 12
R1 N011 0 {R_pa}
M2 N001 N002 N008 N008 BSC100N06LS3
V1 N005 0 AC 10
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\harry\AppData\Local\LTspice\lib\cmp\standard.mos
.param f=204k T={1/f} dead_pct=0 R_pa=40u rising_c=40
.param C_r=100n L_r=12u L_m=80u N_Rx=3.5
.param C_o=560u
K L2 L3 L4 0.999
* .param r_o 0.5 3 1
.ac lin 1000 100k 300k
.param R_o=2.5
.backanno
.end
